US07700774B2
Step (i): Preparation of (1-Benzotriazol-1-yl-ethyl)-(2,5-dimethyl-2H-pyrazol-3-yl)-amine
Benzotriazole (2.14 g, 18 mmol) and dry toluene (24 mL) were charged to a flask under an argon atmosphere. A solution of 5-amino-1,3-dimethylpyrazole (2 g, 18 mmol) in toluene (10 mL) was added to the benzotriazole solution over approximately 0.5 min, followed by the drop-wise addition of propionaldehyde (1.14 g, 19.8 mmol). After this reaction mixture was stirred for 24 hours, n-heptane (30 mL) was added and slurry was stirred for an additional 1 hour, after which time the n-heptane was decanted off, and the pasty residue was dried under vacuum to afford the title compound (4.04 g, 83%).

reactant | Benzotriazole | 18 mmol, 2.14 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | 5-amino-1,3-dimethylpyrazole | 18 mmol, 2 g | NC1=CC(=NN1C)C | C5H9N3
reactant | propionaldehyde | 19.8 mmol, 1.14 g | C(CC)=O | C3H6O
reactant | n-heptane | 30 mL | CCCCCCC | C7H16
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 24 mL | C1(=CC=CC=C1)C | C7H8
product | (1-Benzotriazol-1-yl-ethyl)-(2,5-dimethyl-2H-pyrazol-3-yl)-amine | 4.04 g, 83% | N1(N=NC2=C1C=CC=C2)C(C)NC=2N(N=C(C2)C)C | C13H16N6
